US03992546
The mixture of 2 g of α-methyl-α-(4-piperidyl)-benzyl alcohol, 1.95 g of 4'-fluoro-4-chlorobutyrophenone, 2 g of sodium carbonate (anhydrous), a crystal of sodium iodide and 150 ml of 4-methyl-2-pentanoneare stirred and refluxed for 72 hours. The reaction mixture is filtered to remove the inorganic salts and the filtrate evaporated under reduced pressure. Diethyl ether is added to the residue and the resulting solutionextracted with 5% aqueous hydrochloric acid. The aqueous solution is made basic with ammonia and extracted with diethyl ether. The extract is then dried and evaporated under reduced pressure to afford the 4'-fluoro-4-[4-(α-hydroxy-α-methylbenzyl)-piperidino]-butyrophenone of the formula ##SPC5##

reactant | α-methyl-α-(4-piperidyl)-benzyl alcohol | 2 g | CC(C1=CC=CC=C1)(C1CCNCC1)O | C13H19NO
reactant | 4'-fluoro-4-chlorobutyrophenone | 1.95 g | FC1=CC=C(C=C1)C(CCCCl)=O | C10H10ClFO
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
product | 4'-fluoro-4-[4-(α-hydroxy-α-methylbenzyl)-piperidino]-butyrophenone | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C)O)=O | C23H28FNO2
